US07375134B2
N2-[1-(4-Bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-norvalinamide was prepared in similar manner to N1-(1-cyanocyclopropyl)-N2-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide using aminoacetonitrile in the coupling step with (2S)-2-[(S)-1-(4-bromophenyl)-2,2,2-trifluoroethylamino]-pentanoic acid.

reactant | N1-(1-cyanocyclopropyl)-N2-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide | C(#N)C1(CC1)NC([C@@H](N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)CCC)=O | C24H26F3N3O3S
reactant | aminoacetonitrile | NCC#N | C2H4N2
reactant | (2S)-2-[(S)-1-(4-bromophenyl)-2,2,2-trifluoroethylamino]-pentanoic acid | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@H](C(=O)O)CCC | C13H15BrF3NO2
product | N2-[1-(4-Bromophenyl)-2,2,2-trifluoroethyl]-N1-(cyanomethyl)-L-norvalinamide | BrC1=CC=C(C=C1)C(C(F)(F)F)N[C@@H](CCC)C(=O)NCC#N | C15H17BrF3N3O
